US08372879B2
A mixture of 1.56 g of 3-(2,4-bis(benzyloxy)-phenyl)tetrahydrofuran-3-ol in 25 ml of ethyl acetate, in the presence of 780 mg of palladium-on-charcoal at 10%, is stirred at ambient temperature under a hydrogen pressure of 5 bar for 7 hours. The reaction medium is filtered and then the filtrate is evaporated. The residue is chromatographed on silica gel, elution being carried out with 50/50 heptane/ethyl acetate. The solid obtained is crystallized from dichloromethane/heptane. 285 mg of 4-(tetrahydrofuran-3-yl)benzene-1,3-diol are obtained in the form of a white powder. Yield=36%.

reactant | 3-(2,4-bis(benzyloxy)-phenyl)tetrahydrofuran-3-ol | 1.56 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1(COCC1)O | C24H24O4
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 780 mg | [Pd] | Pd
product | 4-(tetrahydrofuran-3-yl)benzene-1,3-diol | 285 mg, Yield=36% | O1CC(CC1)C1=C(C=C(C=C1)O)O | C10H12O3
